US05476851
Selenium oxide (6.88%) is heated to dissolve in 100 ml aqueous dioxane (95:5 dioxane: H2O). The 2-acetyl-5-chlorothiophene (5.00 g) is added to the mixture. The resulting mixture is refluxed overnight, then cooled. The precipitated selenium metal is filtered after solvent removal a brown thick oil results which solidifies on standing. The solid is heated to dissolve in 400 ml hot water, filtered and allowed to cool to room temperature. The precipitate is collected by filtration, washed with fresh H2O and dried to obtain a light brown flake. The second crop is obtained by extracting the mother liquid with ethylacetate, separated, dried (MgSO4) and concentrated in vacuo to give a light yellow solid which upon treatment with HPLC gives 2-chloro-5-glyoxyloylthiophene, which is used directly in the next step.

reactant | Selenium oxide | [Se]=O | OSe
reactant | 2-acetyl-5-chlorothiophene | 5.00 g | C(C)(=O)C=1SC(=CC1)Cl | C6H5ClOS
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | water | 400 ml | O | H2O
product | 2-chloro-5-glyoxyloylthiophene | ClC=1SC(=CC1)C(C=O)=O | C6H3ClO2S
